US08957074B2
To a 1 mL DMF solution of 6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid (50 mg, 0.122 mmol) was added DIPEA (32 mg, 0.043 mmol) and HBTU (49 mg, 0.129 mmol). After stirring for 15 m at room temperature 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (31.2 mg, 0.147 mmol) was added and the reaction mixture was left to stir at room temperature for 4 h. The reaction was quenched by pouring into brine and extracted with EtOAc. The organic extracts were dried with Na2SO4, filtered and concentrated. The crude product was purified by NP-LC (Analogix, 10% MeOH in EtOAc) to yield 3-[6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (60 mg, 0.10 mmol). MS m/z 603.5 (M+H)+.

reactant | 6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 0.122 mmol, 50 mg | C1(CCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C21H24N6O3
reactant | DIPEA | 0.043 mmol, 32 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.129 mmol, 49 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.147 mmol, 31.2 mg | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-[6-(7-cyclohexyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.10 mmol, 60 mg | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCCC1 | C32H42N8O4
